US06855722B2
2-({5-[3-(2-Pyridylamino)propoxy]indolyl}methyl)pentanoic acid
1,1′-(Azodicarbonyl)dipiperidine (0.12 g, 0.48 mmol) was added to the solution of methyl 2-[(5-hydroxyindolyl)methyl]pentanoate (0.03 g, 0.12 mmol), as prepared in the preceding step, 2-(3-hydroxypropyl)aminopyridine (0.026 g, 0.17 mmol), as prepared in step b of Example 1, and tri-n-butylphosphine (0.09 g, 0.46 mmol) in tetrahydrofuran (6.0 mL). After stirring at ambient temperature overnight (16 h), the reaction was concentrated and the residue was purified by flash chromatography on silica gel (10%-50% ethyl acetate in hexane) to give the title compound as a yellow oil (0.016 g, 36%). 1H-NMR (400 MHz, CDCl3) δ 8.08 (m, 1H), 7.20 (d, J=8.9 Hz, 1H), 7.07 (d, J=2.4 Hz, 1H), 7.02 (d, J=3.3 Hz, 1H), 6.88 (dd, J=8.9, 2.4 Hz, 1H), 6.53 (m, 1H), 6.40 (m, 2H), 4.32 (br s, 1H), 4.42 (m, 1H), 4.25 (m, 3H), 3.52 (m, 5H), 2.91 (m, 1H), 2.20 (m, 2H), 1.72 (m, 2H), 1.43 (m, 3H), 0.95 (t, J=7.2 Hz, 3H).

reactant | 1,1′-(Azodicarbonyl)dipiperidine | 0.48 mmol, 0.12 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
reactant | methyl 2-[(5-hydroxyindolyl)methyl]pentanoate | 0.12 mmol, 0.03 g | OC=1C=C2C=C(NC2=CC1)CC(C(=O)OC)CCC | C15H19NO3
reactant | 2-(3-hydroxypropyl)aminopyridine | 0.17 mmol, 0.026 g | OCCCNC1=NC=CC=C1 | C8H12N2O
reactant | tri-n-butylphosphine | 0.46 mmol, 0.09 g | C(CCC)P(CCCC)CCCC | C12H27P
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
product | 2-({5-[3-(2-Pyridylamino)propoxy]indolyl}methyl)pentanoic acid | 0.016 g, 36% | N1=C(C=CC=C1)NCCCOC=1C=C2C=C(NC2=CC1)CC(C(=O)O)CCC | C22H27N3O3
